### PR TITLE
[Merged by Bors] - chore: remove unused tactics

### PR DESCRIPTION
**Pull request by adomani**
I removed some of the tactics that were not used and are hopefully uncontroversial arising from the linter at #11308.

As the commit messages should convey, the removed tactics are, essentially,
```
push_cast
norm_cast
congr
norm_num
dsimp
funext
intro
infer_instance
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean [hunk 1]
```diff
@@ -119,7 +119,7 @@ theorem cyclotomic_pos_and_nonneg (n : ℕ) {R} [LinearOrderedCommRing R] (x : R
     simp [cyclotomic_zero, cyclotomic_one, cyclotomic_two, succ_eq_add_one, eval_X, eval_one,
       eval_add, eval_sub, sub_nonneg, sub_pos, zero_lt_one, zero_le_one, imp_true_iff, imp_self,
       and_self_iff]
-  · constructor <;> intro <;> set_option tactic.skipAssignedInstances false in norm_num; linarith
+  · constructor <;> intro <;> set_option tactic.skipAssignedInstances false in linarith
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean:122]: Check if you can remove the option as well

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean]: Seems to work locally, thanks for the suggestion!

The next step obvious step is an "unused `set_option`" linter.

**Comment by RemyDegenne** [comment]
Looks good!
bors r+
